US04540696
(a) 2-chloro 4-(2-chloro phenyl) 6-nitro quinazoline
A mixture of 40 g of 4-(2-chloro phenyl) 6-nitro 2-quinazolone are 600 ml of phosphorus oxychloride is heated to reflux for 4 hours. The phosphorus oxychloride is evaporated in vacuo to dryness, then the residue is poured into an ice-water mixture. It is rendered alkaline with a 10% sodium hydroxide solution. The precipitate is drained and washed with acetonitrile. The product is purified by chromatography over a column of silica. By eluting with a chloroform-methanol (95-5 vol/vol) mixture, the expected product is isolated. Weight: 27 g; m.p.: 228° C. (isopropanol).

reactant | 4-(2-chloro phenyl) 6-nitro 2-quinazolone | 40 g | ClC1=C(C=CC=C1)C1=NC(NC2=CC=C(C=C12)[N+](=O)[O-])=O | C14H8ClN3O3
reactant | phosphorus oxychloride | 600 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 2-chloro 4-(2-chloro phenyl) 6-nitro quinazoline | ClC1=NC2=CC=C(C=C2C(=N1)C1=C(C=CC=C1)Cl)[N+](=O)[O-] | C14H7Cl2N3O2
